US07429583B2
f) ethyl 7-methoxy-2-oxo-2,3-dihydro-benzimidazol-1-carboxylate
13.0 g (0.062 mol) ethyl (2-amino-6-methoxy-phenyl)-carbamate and 10.3 mL (0.074 mol) triethylamine in 100 mL dichloromethane are added to a solution of 8.20 mL (0.068 mol) trichloromethylchloroformate in 50 mL dichloromethane while cooling with ice. After 4 hours stirring at ambient temperature the reaction mixture is poured onto ice and extracted with dichloromethane. The combined organic phases are washed with water, dried and freed from the solvent. The residue is stirred in diethyl ether.

reactant | ethyl (2-amino-6-methoxy-phenyl)-carbamate | 0.062 mol, 13.0 g | NC1=C(C(=CC=C1)OC)NC(OCC)=O | C10H14N2O3
reactant | triethylamine | 0.074 mol, 10.3 mL | C(C)N(CC)CC | C6H15N
reactant | trichloromethylchloroformate | 0.068 mol, 8.20 mL | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl 7-methoxy-2-oxo-2,3-dihydro-benzimidazol-1-carboxylate | COC1=CC=CC2=C1N(C(N2)=O)C(=O)OCC | C11H12N2O4
